US07094801B2
Ex-46D: 2-(5-[1,3]Dioxolan-2-yl-2,4-dimethoxy-phenyl)-pyrazine (1.02 g, 3.54 mmol) was dissolved in acetone and p-toluenesulfonic acid (100 mg, 0.53 mmol) and water (5 mL) were added. The solution was stirred for 3 h at room temperature, then concentrated on the rotavap. The resulting mixture was diluted with water (50 mL) and extracted with EtOAc (3×100 mL). The organic phase was washed with 25% saturated aqueous NaHCO3, dried over sodium sulfate, filtered, and concentrated. Drying gave 0.30 g of 2,4-dimethoxy-5-pyrazin-2-yl-benzaldehyde as a yellow solid (18% yield). 1H-NMR (CDCl3) δ 10.35 (s, 1H), 9.06 (d, J=2 Hz, 1H), 8.63–8.65 (m, 1H), 8.45 (d, J=2 Hz, 1H), 8.39 (s, 1H), 6.56 (s, 1H), 4.03 (s, 3H), 4.01 (s, 3H). HRMS m/z: calc. 244.0848, found 244.0853.

reactant | 2-(5-[1,3]Dioxolan-2-yl-2,4-dimethoxy-phenyl)-pyrazine | 3.54 mmol, 1.02 g | O1C(OCC1)C=1C(=CC(=C(C1)C1=NC=CN=C1)OC)OC | C15H16N2O4
reactant | p-toluenesulfonic acid | 0.53 mmol, 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | 5 mL | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | 2,4-dimethoxy-5-pyrazin-2-yl-benzaldehyde | 0.30 g, 18% yield | COC1=C(C=O)C=C(C(=C1)OC)C1=NC=CN=C1 | C13H12N2O3
